US07435837B2
Treatment of 2-allyl-4-chloro-6-isopropyl-3-methylphenol (8.88 g, 0.04 mmol) with 3-chloroperoxybenzoic acid (13.63 g, 0.079 mol, 77%)) followed by potassium carbonate (10.92 g, 0.079 mol) generally according to the procedure described for Intermediate 9 provided (±)-(5-chloro-7-isopropyl-4-methyl-2,3-dihydro-1-benzofuran-2-yl)methanol. Treatment of (±)-(5-chloro-7-isopropyl-4-methyl-2,3-dihydro-1-benzofuran-2-yl)methanol (5.95 g, 0.025 mol) with p-toluenesulfonyl chloride (5.66 g, 0.03 mol) generally according to the procedure described for Intermediate 10 afforded 6.71 g (69%) (±)-(5-chloro-7-isopropyl-4-methyl-2,3-dihydro-1-benzofuran-2-yl)methyl 4-methylbenzenesulfonate as a white solid. mp 103-105° C.; Anal. calcd. for C20H23ClO4S C, 60.83; H, 5.87. Found C, 60.67; H, 5.88.

reactant | 2-allyl-4-chloro-6-isopropyl-3-methylphenol | 0.04 mmol, 8.88 g | C(C=C)C1=C(C(=CC(=C1C)Cl)C(C)C)O | C13H17ClO
reactant | 3-chloroperoxybenzoic acid | 0.079 mol, 13.63 g | ClC=1C=C(C(=O)OO)C=CC1 | C7H5ClO3
reactant | potassium carbonate | 0.079 mol, 10.92 g | C([O-])([O-])=O.[K+].[K+]
reactant | (±)-(5-chloro-7-isopropyl-4-methyl-2,3-dihydro-1-benzofuran-2-yl)methanol | ClC=1C=C(C2=C(CC(O2)CO)C1C)C(C)C | C13H17ClO2
reactant | (±)-(5-chloro-7-isopropyl-4-methyl-2,3-dihydro-1-benzofuran-2-yl)methanol | 0.025 mol, 5.95 g | ClC=1C=C(C2=C(CC(O2)CO)C1C)C(C)C | C13H17ClO2
reactant | p-toluenesulfonyl chloride | 0.03 mol, 5.66 g | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
product | (±)-(5-chloro-7-isopropyl-4-methyl-2,3-dihydro-1-benzofuran-2-yl)methyl 4-methylbenzenesulfonate | 6.71 g, 69% | CC1=CC=C(C=C1)S(=O)(=O)OCC1OC2=C(C1)C(=C(C=C2C(C)C)Cl)C | C20H23ClO4S
